US04654343
N-Ethyl-N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]cyclopropanecarboxamide
A mixture 1.57 g of N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]cyclopropanecarboxamide, 0.36 g of sodium hydride (50% in oil) and 200 ml of dry dimethylformamide under argon was stirred at room temperature for 1 hour and then 0.60 ml of ethyl iodide was added. After stirring overnight, the mixture was poured into 200 ml of water and extracted with dichloromethane. The combined extracts were dried, the solvent removed and the residue chromatographed on a silica gel column with dichlormethane-methanol (97:3) as solvent. The fractions containing product were combined, the solvent removed and the solid recrystallized from dichloromethane-hexane to give 0.80 g of pale yellow crystals, mp 149°-151° C.

reactant | N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]cyclopropanecarboxamide | 1.57 g | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)NC(=O)C2CC2 | C16H15N5O
reactant | sodium hydride | 0.36 g | [H-].[Na+]
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | ethyl iodide | 0.60 ml | C(C)I | C2H5I
solvent | water | 200 ml | O | H2O
product | N-Ethyl-N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]cyclopropanecarboxamide | 0.80 g | C(C)N(C(=O)C1CC1)C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C | C18H19N5O
